US06083952
(±)-7-Chloro-1,3,4,10b-tetrahydropyrido[2,1-a]isoindole-2,6-dione
A mixture of 1-(2-bromo-6-chlorobenzoyl)-2,3-dihydro-4-pyridinone (Preparation 3) (300 mg, 0.954 mmol), triethylamine (0.39 mmol, 0.54 ml), formic acid (0.05 ml, 1.3 mmol) and di(triphenylphosphine)diacetoxypalladium (47 mg, 0.063 mmol) in DMF (3 ml) was heated to 80° C. for 2 h. The cooled solution was filtered through celite, diluted with water, extracted twice with ethyl acetate, the extracts dried over sodium sulphate and evaporated. The residue was purified by flash column chromatography on silica eluting with 50% ethyl acetate in hexane to yield the title compound as a colourless oil (70 mg). MS (+CI) m /z 235/237 [M+H]+.

reactant | 1-(2-bromo-6-chlorobenzoyl)-2,3-dihydro-4-pyridinone | 0.954 mmol, 300 mg | BrC1=C(C(=O)N2CCC(C=C2)=O)C(=CC=C1)Cl | C12H9BrClNO2
reactant | triethylamine | 0.39 mmol, 0.54 ml | C(C)N(CC)CC | C6H15N
reactant | formic acid | 1.3 mmol, 0.05 ml | C(=O)O | CH2O2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | (±)-7-Chloro-1,3,4,10b-tetrahydropyrido[2,1-a]isoindole-2,6-dione | 70 mg | ClC1=C2C(N3C(C2=CC=C1)CC(CC3)=O)=O | C12H10ClNO2
